US05174921
A solution of 29.4 g of triphenylphosphine in 200 ml of toluene is treated dropwise with 20.5 g of 4-chlorobenzyl bromide. The mixture is heated to 65° C. for 3 hours and then to boiling for 2 hours. After cooling to room temperature the precipitate is removed by filtration, washed with toluene and dried in a vacuum. The 4-chlorobenzyl-tri-phenylphosphonium bromide obtained is suspended in 500 ml of diethyl ether. The suspension is treated with 9.5 g of potassium tert.butylate while gassing with nitrogen, stirred at room temperature for a further 30 minutes and then treated dropwise at 20° C. with a solution of 19.8 g of trans-4'-(1,3-dioxolan-2-yl)-[1,1'-bicyclohexyl]-trans-4-carboxaldehyde in 250 ml of absolute diethyl ether. The reaction mixture is stirred at room temperature for a further 2.5 hours. Subsequently, the mixture is washed with 500 ml of semi-saturated sodium hydrogen carbonate solutions and with 300 ml of water, dried over sodium sulfate, fitted and concentrated. The residue is dissolved in 200 ml of hexane and 120 ml of methanol/water (vol. 4:1). The hexane phase is separated, washed with 40 ml of methanol/water (vol. 4:1), dried over sodium sulfate, filtered and concentrated. Purification of the residue by chromatography on silica gel with hexane/ethyl acetate (vol. 9:1) gives trans-4-(1,3-dioxolan-2-yl)-trans-4'-(4-chlorostyryl)-[1,1'-bicyclohexyl].

reactant | triphenylphosphine | 29.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-chlorobenzyl bromide | 20.5 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chlorobenzyl-tri-phenylphosphonium bromide | [Br-].ClC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C25H21ClP.BrH/c26-22-18-16-21(17-19-22)20-27(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H/q+1;/p-1
